US08114868B2
3-{(S)-1-[4-(5-Fluoro-1-methyl-2-oxo-1,2-dihydro-pyridin-4-yl)-phenyl]-ethyl}-(S)-6-(2-hydroxy-2-methyl-propyl)-6-phenyl-[1,3]oxazinan-2-one
The title compound was prepared from (S)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-3-[(S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl]-1,3-oxazinan-2-one and 4-bromo-5-fluoro-1-methyl-1H-pyridin-2-one following a procedure analogous to that described in Example 6. Mass spectrum (ESI+): m/z=479 [M+H]+. The compound that had been obtained as an oil crystallized on standing. The solid was dried at 80° C. under vacuum. Melting points: 120-125° C. with evolution of gas followed by recrystallization and melting at 183-184° C.

reactant | (S)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-3-[(S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl]-1,3-oxazinan-2-one | OC(C[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C1=CC=CC=C1)(C)C | C28H38BNO5
reactant | 4-bromo-5-fluoro-1-methyl-1H-pyridin-2-one | BrC1=CC(N(C=C1F)C)=O | C6H5BrFNO
product | 3-{(S)-1-[4-(5-Fluoro-1-methyl-2-oxo-1,2-dihydro-pyridin-4-yl)-phenyl]-ethyl}-(S)-6-(2-hydroxy-2-methyl-propyl)-6-phenyl-[1,3]oxazinan-2-one | FC=1C(=CC(N(C1)C)=O)C1=CC=C(C=C1)[C@H](C)N1C(O[C@](CC1)(C1=CC=CC=C1)CC(C)(C)O)=O | C28H31FN2O4
